US06498169B1
Synthesis of 4-(3,4-Methylenedioxyphenylamino)-1-[[2-(3,4,5-trimethoxyphenyl) pyridin-4-yl]methyl]piperidine
1-[[2-(3,4,5-Trimethoxyphenyl)pyridin-4-yl]methyl-4-piperidone (1.40 g) and 3,4-methylenedioxyaniline (646 mg) were treated in the same manner as described in Preparation Example 29 to give the title compound.

reactant | [2-(3,4,5-Trimethoxyphenyl)pyridin-4-yl]methyl-4-piperidone | 1.40 g | COC=1C=C(C=C(C1OC)OC)C1=NC=CC(=C1)CN1CCC(CC1)=O | C20H24N2O4
reactant | 3,4-methylenedioxyaniline | 646 mg | C1OC=2C=C(N)C=CC2O1 | C7H7NO2
product | 4-(3,4-Methylenedioxyphenylamino)-1-[[2-(3,4,5-trimethoxyphenyl) pyridin-4-yl]methyl]piperidine | C1OC=2C=C(C=CC2O1)NC1CCN(CC1)CC1=CC(=NC=C1)C1=CC(=C(C(=C1)OC)OC)OC | C27H31N3O5
